US07709466B2
155 mg 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-6-[methyl-(toluene-4-sulfonyl)-amino]-indole-1-carboxylic acid tert-butyl ester are dissolved in 2.25 mL ethanol. 1.85 mL 1 N aqueous sodium hydroxide are added. The reaction mixture is heated to 150° C. in a microwave oven for 15 minutes. Purification by HPLC affords 61 mg (39%) 4, N-dimethyl-N-[2-(3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazin-4-yl)-1H-indol-6-yl]-benzenesulfonamide.

reactant | 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-6-[methyl-(toluene-4-sulfonyl)-amino]-indole-1-carboxylic acid tert-butyl ester | 155 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)N(S(=O)(=O)C1=CC=C(C=C1)C)C)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C31H31N5O5S
reactant | sodium hydroxide | 1 N, 1.85 mL | [OH-].[Na+]
solvent | ethanol | 2.25 mL | C(C)O | C2H6O
product | 4, N-dimethyl-N-[2-(3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazin-4-yl)-1H-indol-6-yl]-benzenesulfonamide | 61 mg, 39% | CC1=CC=C(C=C1)S(=O)(=O)N(C1=CC=C2C=C(NC2=C1)C=1C(NN=C(C1)C1=CC=NC=C1)=O)C | C25H21N5O3S
